US07476749B1
In a dry 3-necked round bottomed flask, containing a magnetic stirrer, equipped with a dropping funnel, a reflux condenser protected from moisture by a calcium chloride filled drying tube and a rubber septum. The dropping funnel is filled with 10.60 mL (125 mmol) of acetyl bromide and 25 mL of dry DCM. The flask is charged with 35.14 g (300 mmol) of Creatinol and 150 mL of dry DCM, and cooled with an ice-water bath to about 0° C., under a nitrogen atmosphere. The acetyl bromide solution is then added slowly with stirring, over a period of 10 minutes, to the Creatinol solution. The solution is stirred for another 15 minutes, after which 9.64 mL (50 mmol) of Decanoic acid is added in one portion and the reaction is slowly heated to about 65° C. for about 6 hours. Then the solution is allowed to cool to room temperature, after which the solvent is removed under reduced pressure to yield the crude ester. The crude ester is then purified by flash chromatography (ethyl acetate/hexanes; 1/5) to yield pure 2-(1-methylguanidino)ethyl decanoate.

reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
reactant | acetyl bromide | 125 mmol, 10.60 mL | C(C)(=O)Br | C2H3BrO
reactant | Creatinol | 300 mmol, 35.14 g | CN(CCO)C(=N)N | C4H11N3O
reactant | Decanoic acid | 50 mmol, 9.64 mL | C(CCCCCCCCC)(=O)O | C10H20O2
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-(1-methylguanidino)ethyl decanoate | C(CCCCCCCCC)(=O)OCCN(C(=N)N)C | C14H29N3O2
